US05246929
To a mixture of 2-(4-chlorophenyl)-3,4-dihydro2H-1,4-benzothiazine (1.08 g), ethyl acetate (20 ml) and aqueous sodium hydrogen carbonate solution (20 ml) is added dropwise a solution of 4-bromobutyryl chloride (0.97 g) in ethyl acetate (5 ml) with stirring under ice cooling. The ethyl acetate layer is washed, dried and distilled to remove the solvent. The residue is recrystallized from ethyl acetate-n-hexane to give 4-(4-bromobutyryl)-2-(4-chlorophenyl)-3,4-dihyro-2H-1,4-benzothiazine (1.58 g, yield 93%).

reactant | 2-(4-chlorophenyl)-3,4-dihydro2H-1,4-benzothiazine | 1.08 g | ClC1=CC=C(C=C1)C1SC2=C(NC1)C=CC=C2 | C14H12ClNS
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
reactant | 4-bromobutyryl chloride | 0.97 g | BrCCCC(=O)Cl | C4H6BrClO
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(4-bromobutyryl)-2-(4-chlorophenyl)-3,4-dihyro-2H-1,4-benzothiazine | 1.58 g, yield 93% | BrCCCC(=O)N1CC(SC2=C1C=CC=C2)C2=CC=C(C=C2)Cl | C18H17BrClNOS
